US08236963B2
Intermediate 42: tert-butyl [5-chloro-1′-[(5-methyl-3-phenylisoxazol-4-yl)methyl]-2,2′-dioxospiro[indole-3,3′-pyrrolidin]-1(2H)-yl]acetate, (cf. Scheme 9, compound XXV)
A suspension of tert-butyl (5-chloro-2,5′-dioxospiro[indole-3,3′-pyrrolidin]-1(2H)-yl)acetate, intermediate 41 (100 mg; 0.29 mmol) in dry DMF (5 ml) was treated with sodium hydride pract. (14.8 mg; 0.37 mmol). After stirring for 20 minutes 4-(bromomethyl)-5-methyl-3-phenylisoxazole (86.24 mg; 0.34 mmol) was added. After stirring for 1 h the solvent was evaporated to give a residue, which was dissolved in ethyl acetate. The organic phase was washed with brine, dried (MgSO4) and removed in vacuo, to give a solid residue which was purified by chromatography (silica), eluting with cyclohexane containing increasing amounts of ethyl acetate (30 to 50%), to give the title compound in 58% yield (HPLC purity 99%). MS (ESI+): 522.4; MS (ESI−): 520.2

reactant | tert-butyl (5-chloro-2,5′-dioxospiro[indole-3,3′-pyrrolidin]-1(2H)-yl)acetate | ClC=1C=C2C(=CC1)N(C(C21CNC(C1)=O)=O)CC(=O)OC(C)(C)C | C17H19ClN2O4
reactant | sodium hydride | [H-].[Na+]
reactant | 4-(bromomethyl)-5-methyl-3-phenylisoxazole | 0.34 mmol, 86.24 mg | BrCC=1C(=NOC1C)C1=CC=CC=C1 | C11H10BrNO
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl [5-chloro-1′-[(5-methyl-3-phenylisoxazol-4-yl)methyl]-2,2′-dioxospiro[indole-3,3′-pyrrolidin]-1(2H)-yl]acetate | 58% yield | ClC=1C=C2C(=CC1)N(C(C21C(N(CC1)CC=1C(=NOC1C)C1=CC=CC=C1)=O)=O)CC(=O)OC(C)(C)C | C28H28ClN3O5
